US07476741B2
4-(3-Bromo-4,5-dimethoxyphenyl)-2-hydroxy-7-methyl-pyrrolo[2,3-h]chroman
A mixture of 4-hydroxy-N-methyl indole (11 mg, 0.075 mmol) and 3-(3-bromo-4,5-dimethoxyphenyl)-propenal (20 mg, 0.074 mmol) in methanol (0.6 ml) containing morpholine (7 μl, 0.08 mmol) was held under reflux for 2 h and the mixture was allowed to stir at room temperature overnight. The solvent was evaporated to dryness. The residue was dissolved in acetic acid (0.8 ml) and water was added until the mixture became turbid. It was held at 50° C. for 10 minutes. It was cooled and added slowly to saturated sodium bicarbonate solution. The product was extracted with dichloromethane, washed with saturated sodium chloride solution and dried over sodium sulphate. The solvent was evaporated and the crude product was passed through a bond-elute (hexane:ethyl acetate=9:1 and 8:2 as eluents), giving the title compound (16 mg, 52%). 1H NMR (acetone-d6): 7.09 and 7.08 (d each, J=2.9 Hz; 1H), 7.00 and 6.98 (d each, J=1.7 Hz; 1H), 6.95 and 6.93 (d each, J=1.7 Hz; 1H), 6.85 and 6.83 (d each, J=8.6 Hz; 1H), 6.55 and 6.50 (d each, J=8.5 Hz; 1H), 6.42 and 6.41 (d each, J=3.3 Hz; 1H), 6.15 (fine split doublet, J=6.8 Hz) and 6.08 (d, J=4.9 HZ) (1H), 5.67-5.70 and 5.54-5.58 (m each, 1H), 4.34 (overlapping dd, J=5.8, 10.1 Hz; 1H), 3.84, 3.81, 3.78 and 3.75 (s each, 9H), 2.38-2.43 and 2.09-2.25 (m each, 2H).

reactant | 4-hydroxy-N-methyl indole | 0.075 mmol, 11 mg | OC1=C2C=CN(C2=CC=C1)C | C9H9NO
reactant | 3-(3-bromo-4,5-dimethoxyphenyl)-propenal | 0.074 mmol, 20 mg | BrC=1C=C(C=C(C1OC)OC)C=CC=O | C11H11BrO3
reactant | morpholine | 0.08 mmol, 7 μl | N1CCOCC1 | C4H9NO
solvent | methanol | 0.6 ml | CO | CH4O
product | 4-(3-Bromo-4,5-dimethoxyphenyl)-2-hydroxy-7-methyl-pyrrolo[2,3-h]chroman | 16 mg, 52% | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=C3C(=CC=C12)N(C=C3)C)O | C20H20BrNO4
